US04125729
α-(p-Chlorophenylthio)-α-[p-(phenoxy)phenyl]acetic Acid
A mixture of 3.55 g of methyl α-(p-chlorophenylthio)-α-[p-(phenoxy)phenyl]acetate, 20 ml of 20% KOH and 5 ml of methanol is refluxed overnight. The mixture is acidified and worked up to afford a light green solid which is crystallized from chloroform to yield the product as white crystals, mp 121°-125° C.

reactant | methyl α-(p-chlorophenylthio)-α-[p-(phenoxy)phenyl]acetate | 3.55 g | ClC1=CC=C(C=C1)SC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C21H17ClO3S
reactant | KOH | 20 ml | [OH-].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | α-(p-Chlorophenylthio)-α-[p-(phenoxy)phenyl]acetic Acid | ClC1=CC=C(C=C1)SC(C(=O)O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C20H15ClO3S
